US08563599B2
2-Benzyloxy-4-methoxymethyloxy-4′-benzyloxy-2′-acetoxy-chalcone
To a solution of 2-benzyloxy-4-methoxymethyloxy-4′-benzyloxy-2′-hydroxy-chalcone (0.496 g, 1 mmol), in 10 mL of acetic anhydride was added triethylamine (0.25 mL, 2 mmol) and the solution heated at 60° C. for ca. 6 hrs. After disappearance of starting material (TLC), the hot reaction mixture was poured into ice water:methanol (1:1) ca. 50 mL. A solid precipitated upon vigorous stirring. The solid was filtered, dried and recrystallized from methanol (ca. 15 mL) to obtain 0.495 g (92%) of white solid: mp 94-96° C.; TLC Rf0.21 in hexanes:EtOAc (3:1); 1H NMR (400 MHz, DMSO-d6) δ 7.78-7.75 (m, 2H), 7.71-7.69 (d, 1H, J=8.8 Hz, Ar—H6′), 7.49-7.36 (m, 10+1H, 2×C6H6+Ar—H8), 6.99-6.96 (dd, 1H, 2J=8.4 Hz, 3J=2.4 Hz, Ar—H5′), 6.90 (d, 1H, J=2.4 Hz, Ar—H3′), 6.85 (d, 1H, J=2 Hz, Ar—H3), 6.72-6.69 (dd, 1H, 2J=8.4 Hz, 3J=2.4 Hz, Ar—H5), 5.26 (s, 2H, O—CH2), 5.20 (s, 4H, O—CH2), 3.39 (s, 3H, OCH3), 2.18 (s, 3H, CH3CO); 13C NMR (100 MHz, DMSO-d6) δ 189, 169.5, 162.5, 160.9, 159.6, 151.4, 139.5, 137.2, 136.9, 132.3, 131.7, 129.3, 129.2, 128.8, 128.6, 128.6, 125.2, 123.3, 117.6, 113, 110.8, 109.1, 102.2, 94.5, 70.7, 70.5, 56.6, 21.5; analysis calc'd. for C33H30O7: C, 73.60; H, 5.61; O, 20.81. found: C, 73.86; H, 5.62; O, 20.79.

reactant | 2-benzyloxy-4-methoxymethyloxy-4′-benzyloxy-2′-hydroxy-chalcone | 1 mmol, 0.496 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCOC)C=CC(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)O | C31H28O6
reactant | triethylamine | 2 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Benzyloxy-4-methoxymethyloxy-4′-benzyloxy-2′-acetoxy-chalcone | 0.495 g, 92% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCOC)C=CC(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC(C)=O | C33H30O7
